US04720495
7.08 g (0.02 mole) of 8,9-dichloro-5-methyl-6,7-dihydro-1,7-dioxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid ethyl ester was suspended in a mixture of 14 ml of concentrated hydrochloric acid and 56 ml of acetic acid, and this suspension was stirred at 110°-120° C. for 3 hours to hydrolyze the starting material. The resulting reaction solution was allowed to cool to room temperature. The precipitate which separated out was collected by filtration and washed with water to obtain 5.61 g (86.0% yield) of 8,9-dichloro-5-methyl-6,7-dihydro-1,7-dioxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid in the form of pale-yellow crystals.

reactant | 8,9-dichloro-5-methyl-6,7-dihydro-1,7-dioxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid ethyl ester | 0.02 mole, 7.08 g | C(C)OC(=O)C1=CN2C(CC(C3=C2C(C1=O)=CC(=C3Cl)Cl)=O)C | C16H13Cl2NO4
solvent | hydrochloric acid | 14 ml | Cl | ClH
solvent | acetic acid | 56 ml | C(C)(=O)O | C2H4O2
product | 8,9-dichloro-5-methyl-6,7-dihydro-1,7-dioxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 5.61 g, 86.0% yield | ClC1=C(C=C2C(C(=CN3C(CC(C1=C23)=O)C)C(=O)O)=O)Cl | C14H9Cl2NO4
